US05284847
A mixture of ethyl bis(t-butoxycarbonyl)amino-4-phenylthiophene-3-carboxylate (4.37 g, 9.76 mmol), 40 ml of ethanol, 20 ml of water and 2.19 g of potassium hydroxide was heated at reflux for 3 h. The mixture was cooled and acidified with 2.9 ml of--acetic acid. The precipitate was isolated to give 2.70 g (87%) of 2-t-butoxycarbonylamino4-phenylthiophene-3-carboxylic acid. M.p. 183° C. (dec.). 1H-NMR (DMSO-D6, δ): 1.5 (s, 9H), 6.7 (s, 1H), 7.3 (m, 5H), 11.5 (br.s, 1H).

reactant | ethyl bis(t-butoxycarbonyl)amino-4-phenylthiophene-3-carboxylate | 9.76 mmol, 4.37 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1SC=C(C1C(=O)OCC)C1=CC=CC=C1 | C23H29NO6S
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | water | 20 ml | O | H2O
reactant | potassium hydroxide | 2.19 g | [OH-].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-t-butoxycarbonylamino4-phenylthiophene-3-carboxylic acid | 2.70 g, 87% | C(C)(C)(C)OC(=O)NC=1SC=C(C1C(=O)O)C1=CC=CC=C1 | C16H17NO4S
